US07241785B2
A mixture of 6-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-pyridylmethanol (1.87 g) and thionyl chloride (15 ml) was stirred at room temperature for 1 hr. After concentration under reduced pressure, ice water was added to the residue. The mixture was neutralized with saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography, and 5-chloromethyl-2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]pyridine (1.41 g, yield 71%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 95–96° C.

reactant | 6-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]-3-pyridylmethanol | 1.87 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=CC=C(C=N1)CO)C | C15H14N2O4
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-chloromethyl-2-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]pyridine | 1.41 g, yield 71% | ClCC=1C=CC(=NC1)OCC=1N=C(OC1C)C=1OC=CC1 | C15H13ClN2O3
